US08222248B2
A mixture of 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-indol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester and 1N NaOH (500 μL) in THF (5 mL) was heated at 50° C. for 18 h. The mixture was cooled and was neutralized with one equivalent of 1N HCl and partitioned between water and ethyl acetate. The ethyl acetate layer was dried, filtered, and the solvent removed under reduced pressure to leave an oil, which was twice taken up in ether and solvent removed under reduced pressure to give 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-indol-2-yl]-3,5-dimethylphenyl}-propionic acid. 1H NMR (Acetonitrile-d3, 400 MHz): δ 9.62 (s, 1H), 8.72 (s, 1H), 8.04 (s, 1H), 7.63 (m, 4H), 7.40 (d, J=8.7 Hz, 2H), 7.03 (s, 2H), 6.40 (s, 1H), 2.87 (t, J=7.6 Hz, 2H), 2.63 (t, J=7.7 Hz, 2H), 2.11 (s, 6H), 1.32 (s, 9H). MS (m/z) 469.3 (M+1); Retention time=1.50 min (Method 10).

reactant | 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-indol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester | COC(CCC1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(NC1=CC=C(C=C1)C(C)(C)C)=O)C)=O | C31H34N2O3
reactant | NaOH | 1N, 500 μL | [OH-].[Na+]
reactant | HCl | 1N, one equivalent | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-indol-2-yl]-3,5-dimethylphenyl}-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1C)CCC(=O)O)C | C30H32N2O3
